US07825140B2
4-(3-Chloro-pyrazin-2-ylamino)-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide
A mixture of 4-amino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide (50 mg; 0.23 mmol) and 2,3-dichloropyrazine (140 mg; 0.92 mmol) was heated at 150° C. (50 W) for 20 minutes in a CEM Discover™ microwave synthesiser. The crude reaction mixture was purified by flash column chromatography eluting with ethyl acetate/hexane (1:3 then 1:2). Product containing fractions were combined and evaporated to give 15 mg of the title compound as a white solid. (LC/MS: Rt 4.06 M+H]+ 332).

reactant | 4-amino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 0.23 mmol, 50 mg | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1N | C10H9FN4O
reactant | 2,3-dichloropyrazine | 0.92 mmol, 140 mg | ClC1=NC=CN=C1Cl | C4H2Cl2N2
product | 4-(3-Chloro-pyrazin-2-ylamino)-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 15 mg | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1NC1=NC=CN=C1Cl | C14H10ClFN6O
